US06787650B1
4-[4-(Methylsulfonyl)benzyl]piperidine hydrochloride
A mixture of 1-acetyl-4-[4-(methylsulfonyl)benzyl]-piperidine (8.76 g) and concentrated hydrochloric acid (100 mL) was stirred for 4 hours under reflux with heat. The reaction mixture was concentrated under reduced pressure. 2-Propanol (100 mL) was added thereto and the mixture was concentrated under reduced pressure. To the residue was added 2-propanol (50 mL), and the mixture was stirred under reflux with heat for 30 minutes and cooled down to room temperature. The precipitate was filtered off, washed with 2-propanol (50 mL) and dried under reduced pressure to give the title compound as a white solid (7.51 g).

reactant | 1-acetyl-4-[4-(methylsulfonyl)benzyl]-piperidine | 8.76 g | C(C)(=O)N1CCC(CC1)CC1=CC=C(C=C1)S(=O)(=O)C | C15H21NO3S
reactant | hydrochloric acid | 100 mL | Cl | ClH
product | 4-[4-(Methylsulfonyl)benzyl]piperidine hydrochloride | 7.51 g | Cl.CS(=O)(=O)C1=CC=C(CC2CCNCC2)C=C1 | InChI=1S/C13H19NO2S.ClH/c1-17(15,16)13-4-2-11(3-5-13)10-12-6-8-14-9-7-12;/h2-5,12,14H,6-10H2,1H3;1H
